US04980470
Synthesis of 7-(3-aminomethyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
A mixture of 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid (200 mg), 3-aminomethylpyrrolidine (80 mg), DBU (110 mg) and anhydorous acetonitrile (3 ml) was refluxed for 2.5 hours. After cooling, the resulting precipitate was collected by filtration and recrystallized from a solution of dichloromethane-methanol (1:1) to give the title compound (90 mg) as white powdery crystals, mp 198°-200° C.

reactant | 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 200 mg | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O | C14H11F2NO4
reactant | 3-aminomethylpyrrolidine | 80 mg | NCC1CNCC1 | C5H12N2
reactant | DBU | 110 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 7-(3-aminomethyl-1-pyrrolidinyl)-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | 90 mg | NCC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C19H22FN3O4
